US09302988B2
Step 1: [1-Benzyl-3-(4-chlorophenyl)-4-methyl-5-(trifluoromethyl)-1H-pyrrol-2-yl]-(1-oxo-[1,4]thiazinan-4-yl)-methanone (SC-19)
To a suspension of (1-benzyl-3-(4-chlorophenyl)-4-methyl-5-(trifluoromethyl)-1H-pyrrol-2-yl)(thiomorpholino)methanone [for synthesis see SC-26] (131 mg, 0.28 mmol) in MeOH (4 mL) and H2O (1 mL) was added oxone (85 mg, 0.138 mmol). The reaction mixture was stirred at room temperature for 2 h. The reaction mixture was diluted with H2O and extracted with DCM (60 mL). The organic layer was washed with brine, dried (Na2SO4) and purified by flash column chromatography (silica, heptane/EtOAc, 1:1→0:1) to give SC-19 (48 mg, 35%) as a white foam.

reactant | (1-benzyl-3-(4-chlorophenyl)-4-methyl-5-(trifluoromethyl)-1H-pyrrol-2-yl)(thiomorpholino)methanone | 0.28 mmol, 131 mg | C(C1=CC=CC=C1)N1C(=C(C(=C1C(F)(F)F)C)C1=CC=C(C=C1)Cl)C(=O)N1CCSCC1 | C24H22ClF3N2OS
reactant | oxone | 0.138 mmol, 85 mg | OOS(=O)[O-].[K+]
solvent | MeOH | 4 mL | CO | CH4O
solvent | H2O | 1 mL | O | H2O
product | [1-Benzyl-3-(4-chlorophenyl)-4-methyl-5-(trifluoromethyl)-1H-pyrrol-2-yl]-(1-oxo-[1,4]thiazinan-4-yl)-methanone | C(C1=CC=CC=C1)N1C(=C(C(=C1C(F)(F)F)C)C1=CC=C(C=C1)Cl)C(=O)N1CCS(CC1)=O | C24H22ClF3N2O2S
